US07229999B2
Step 2: 6-Benzylamino-5-(4-chloro-phenyl)-nicotinic acid
A mixture of 77 mg (0.25 mmol) 6-benzylamino-5-bromo-nicotinic acid, 58 mg (0.375 mmol) 4-chlorophenyl boronic acid, 9.1 mg 1,1′-bis(diphenylphosphino)ferrocenedichloro palladium (II) dichloromethane complex 1:1 and 0.38 mL 2N Na2CO3 aq. in 0.5 mL water and 2 mL dioxane was heated to 85° C. for 20 h. Formic acid was added, filtered and the mixture was purified by preparative HPLC on reversed phase eluting with a gradient formed from acetonitrile/water/HCOOH. The combined product fractions were evaporated to yield 32.4 mg (38%) of the title compound. MS (m/e): 337.3 (M−H).

reactant | 6-benzylamino-5-bromo-nicotinic acid | 0.25 mmol, 77 mg | C(C1=CC=CC=C1)NC1=NC=C(C(=O)O)C=C1Br | C13H11BrN2O2
reactant | 4-chlorophenyl boronic acid | 0.375 mmol, 58 mg | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | Na2CO3 | 2N, 0.38 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | Formic acid | C(=O)O | CH2O2
solvent | water | 0.5 mL | O | H2O
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 6-Benzylamino-5-(4-chloro-phenyl)-nicotinic acid | 32.4 mg, 38% | C(C1=CC=CC=C1)NC1=NC=C(C(=O)O)C=C1C1=CC=C(C=C1)Cl | C19H15ClN2O2
